US07727985B2
To a solution of 4-(2-amino-butyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide (100 mg, 0.233 mmol) in pyridine (4 mL) was added 2-methyl-nicotinic acid (38.4 mg, 0.280 mmol) and EDCI (71.5 mg, 0.373 mmol). The solution was stirred overnight at room temperature, then diluted with water (5 mL). The mixture was poured into a separatory funnel and diluted further with water (20 mL). The mixture was extracted with EtOAc (2×20 mL), then the combined organic layers were washed with brine. The organic layer was dried over magnesium sulfate, filtered, and concentrated to yield a yellow-brown oil which was purified via column chromatography. The resulting yellow solid was dissolved in methanol (2 mL) and HCl in Et2O (2M, 2 mL) was added. The mixture was stirred for 5 minutes, then concentrated to yield 103 mg of 6,6-dimethyl-4-{2-[(2-methyl-pyridine-3-carbonyl)-amino]-butyl}-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide (71% yield).

reactant | 4-(2-amino-butyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 0.233 mmol, 100 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(CC)N | C22H28ClN5O2
reactant | 2-methyl-nicotinic acid | 0.280 mmol, 38.4 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | EDCI | 0.373 mmol, 71.5 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 5 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 6,6-dimethyl-4-{2-[(2-methyl-pyridine-3-carbonyl)-amino]-butyl}-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 103 mg, 71% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(CC)NC(=O)C=1C(=NC=CC1)C | C29H33ClN6O3
